US08580841B2
Step B: Preparation of 4-(Chloromethyl)-1-cyclopentyl-2-(trifluoromethyl)benzene.
In a 1 L, 3-necked reaction flask fitted with a mechanical stirrer, a temperature probe, an addition funnel and a dry nitrogen inlet was placed 1-cyclopentyl-2-(trifluoromethyl)benzene (50 g, 233 mmol). The material was stirred and cooled to −12° C. (dry ice/IPA bath). Concentrated sulfuric acid (100 mL, 1877 mmol) was added dropwise so that the temperature was maintained between −12° C. to −10° C. The mixture was cooled to −15° C. and s-trioxane (27.3 g, 303 mmol) was added in 3 batches (9.1 g each batch) while the temperature was maintained at between −15° C. to −10° C. The mixture was stirred at −10° C. and almost immediately sulfurochloridic acid (28.1 mL, 420 mmol) was added slowly maintaining the temperature at between −10° C. to −5° C. The mixture was stirred for 20 min at −5° C. and 3 h between −2 to −3° C. The reaction mixture was slowly poured (with efficient stirring) into ice-water (1 L). MTBE (700 mL) was added and the mixture was stirred well. Celite (300 g) was added and stirred well. The celite slurry was filtered and the celite bed was washed with MTBE. The aqueous layer of the filtrate was separated and extracted with MTBE (1×700 mL). The combined MTBE layer was washed with water (1×500 mL) followed by saturated NaHCO3 (2×350 mL). The MTBE layer was then washed with water (2×500 mL), dried (Na2SO4) and filtered. The filtrate was concentrated (at 38° C., bath temperature; 200 Torr) to give a yellow oil. The oil was taken up in hexane (500 mL) and filtered through a bed of silica; then the silica bed was washed with hexane. The filtrate was concentrated under reduced pressure (38° C., bath temperature; at 200 Torr) to give the title compound as a light yellow oil (36.2 g; 89% purity by LC at 214 nm). 1H NMR (400 MHz, DMSO-d6) δ 1.55-1.72 (m, 4H), 1.78-1.89 (m, 2H), 1.94-2.04 (m, 2H), 3.19-3.28 (m, 1H), 4.82 (s, 2H), 7.62-7.72 (m, 3H).

reactant | 1-cyclopentyl-2-(trifluoromethyl)benzene | 233 mmol, 50 g | C1(CCCC1)C1=C(C=CC=C1)C(F)(F)F | C12H13F3
reactant | dry ice IPA | C(=O)=O.CC(C)O
reactant | sulfuric acid | 1877 mmol, 100 mL | S(O)(O)(=O)=O | H2O4S
reactant | s-trioxane | 303 mmol, 27.3 g | C1OCOCO1 | C3H6O3
reactant | sulfurochloridic acid | 420 mmol, 28.1 mL | S(O)(=O)(=O)Cl | ClHO3S
solvent | hexane | 500 mL | CCCCCC | C6H14
solvent | MTBE | 700 mL | CC(C)(C)OC | C5H12O
product | 4-(Chloromethyl)-1-cyclopentyl-2-(trifluoromethyl)benzene | 36.2 g, 89% | ClCC1=CC(=C(C=C1)C1CCCC1)C(F)(F)F | C13H14ClF3
